US09163021B2
7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine
To a solution of 7-fluoro-pyrrolo[3,2-c]pyridine (Preparation 62, 5 g, 36.76 mmol) in anhydrous DMF (35 mL) was added NIS (9 g, 40.44 mmol), and the reaction stirred at room temperature for 4 hours. The reaction was diluted with water and EtOAc. The organic layer was collected, washed with saturate aqueous NaHCO3 solution, brine, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 50-100% EtOAc in heptanes followed by 5% MeOH in DCM to afford the title compound (5 g).

reactant | 7-fluoro-pyrrolo[3,2-c]pyridine | 36.76 mmol, 5 g | FC=1C2=C(C=NC1)C=CN2 | C7H5FN2
reactant | NIS | 40.44 mmol, 9 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine | 5 g | FC=1C2=C(C=NC1)C(=CN2)I | C7H4FIN2
